US08304419B2
Step C: 2-[(3-bromo-5-chlorophenyl)oxy]-3-fluoro-4-methyl-1-nitrobenzene
The crude {3-[(3-bromo-5-chlorophenyl)oxy]-2-fluoro-4-nitrophenyl}acetic acid was dissolved in CH3CN (150 mL) and Cu2O (1.18 g, 8.22 mmol) was added. A condenser was attached and the heterogeneous mixture was heated to reflux for 3 h. The reaction mixture was cooled to RT, filtered through Celite and the solvent evaporated. The crude brown oil was purified by column chromatography (5% to 70% EtOAc/hexanes gradient) to afford the title compound (13.0 g, 88% over three steps) as a yellow oil. 1H NMR (400 MHz, DMSO-d6): δ ppm 7.94-7.91 (m, 1H), 7.49-7.45 (m, 2H), 7.22 (s, 1H), 7.14 (s, 1H), 2.34 (s, 3H).

reactant | {3-[(3-bromo-5-chlorophenyl)oxy]-2-fluoro-4-nitrophenyl}acetic acid | BrC=1C=C(C=C(C1)Cl)OC=1C(=C(C=CC1[N+](=O)[O-])CC(=O)O)F | C14H8BrClFNO5
solvent | CH3CN | 150 mL | CC#N | C2H3N
product | 2-[(3-bromo-5-chlorophenyl)oxy]-3-fluoro-4-methyl-1-nitrobenzene | 13.0 g, 88% | BrC=1C=C(C=C(C1)Cl)OC1=C(C=CC(=C1F)C)[N+](=O)[O-] | C13H8BrClFNO3
